US08232278B2
to a suspension of 6-chloro-3-nitro-pyridine-2-carbonitrile (11.01 g, 60 mmol) in methanol (120 ml), was added Raney-Nickel (3 g, washed with methanol to remove water) and the mixture was shaken under a H2-atmosphere at room temperature for 4 hours. The catalyst was removed by filtration, washed with methanol (500 ml). Both filtrates were combined and then evaporated to dryness. The residue was dissolved in dichloromethane and the solution was filtered through a short and wide column with silica gel (100 g). The column was additionally washed with CH2Cl2/MeOH (200 ml, 4:1). The filtrate and washings were combined and evaporated to small volume. The formed precipitate was filtered off to give 3-amino-6-chloro-pyridine-2-carboxamide (8.1 g). The final filtrate was evaporated to dryness and the residue purified by column chromatography on silica gel (30 g). The compound was eluted with the following solvent systems: CH2Cl2 (200 ml), CH2Cl2/MeOH 100:1 (200 ml). The appropriate fractions were evaporated in vacuo yielding an additional 1.15 g of 3-amino-6-chloro-pyridine-2-carboxamide (total yield 9.25 g, i.e. 90%) which was characterised as follows:

reactant | 6-chloro-3-nitro-pyridine-2-carbonitrile | 60 mmol, 11.01 g | ClC1=CC=C(C(=N1)C#N)[N+](=O)[O-] | C6H2ClN3O2
reactant | methanol | 120 ml | CO | CH4O
catalyst | Raney-Nickel | 3 g | [Ni] | Ni
product | 3-amino-6-chloro-pyridine-2-carboxamide | 8.1 g | NC=1C(=NC(=CC1)Cl)C(=O)N | C6H6ClN3O
